US08877955B2
3-(2,2-Dimethyl-3-(N,N-dimethylamino)propylideneamino)propyltriethoxysilane
13.57 g 2,2-dimethyl-3-dimethylaminopropanal, 7.45 g 2-propanamine and 22.14 g 3-aminopropyltriethoxysilane were reacted according to the general manufacturing procedure (iminosilanes). Yield: 32.3 g of a clear, colorless oil having an amine content of 5.97 mmol N/g and a purity of 98%.

reactant | 2,2-dimethyl-3-dimethylaminopropanal | 13.57 g | CC(C=O)(CN(C)C)C | C7H15NO
reactant | 2-propanamine | 7.45 g | CC(C)N | C3H9N
reactant | 3-aminopropyltriethoxysilane | 22.14 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
product | 3-(2,2-Dimethyl-3-(N,N-dimethylamino)propylideneamino)propyltriethoxysilane | CC(C=NCCC[Si](OCC)(OCC)OCC)(CN(C)C)C | C16H36N2O3Si
